US07572809B2
d) Preparation of 1-Hydroxy-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid amide
A mixture of 6-Cyanomethyl-4-methoxy-isophthalamic acid (0.5 g, 2.34 mmol), 3-amino-5-methylpyrazol (0.45 g, 4.68 mmol), acetic acid (10 ml) were sealed in microwave process vial (20 ml). The mixture was heated at 130° C. for 30 minutes under microwave irradiation. After removal of acetic acid, the residue was dissolved in 1.5 ml MeOH. This solution was added dropwise to 30 ml water, and the formed solid was collected and purified by flash column chromatography to give product (0.63 g, 86%). LC-MS: m/e 314 (MH+).

reactant | 6-Cyanomethyl-4-methoxy-isophthalamic acid | 2.34 mmol, 0.5 g | C(#N)CC1=CC(=C(C=C1C(=O)O)C(=O)N)OC | C11H10N2O4
reactant | 3-amino-5-methylpyrazol | 4.68 mmol, 0.45 g | NC1=NNC(=C1)C | C4H7N3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-Hydroxy-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid amide | 0.63 g, 86% | OC1=NC(=CC2=CC(=C(C=C12)C(=O)N)OC)NC1=NNC(=C1)C | C15H15N5O3
